US04416895
A mixture of hydrobromic acid (50 ml, 46% w/v) and 1-(2-hydroxyethyl)naphthalene (10.0 g, 0.058 mol) was stirred and heated under reflux for 4 h. After cooling, the reaction mixture was diluted with water (150 ml), and the resulting precipitate was extracted with ether (3×150 ml). The ether extracts were combined and dried (MgSO4), when the ether was evaporated under reduced pressure, to afford 1-(2-bromoethyl)naphthalene which was used without further purification.

reactant | hydrobromic acid | 50 ml | Br | BrH
reactant | 1-(2-hydroxyethyl)naphthalene | 0.058 mol, 10.0 g | OCCC1=CC=CC2=CC=CC=C12 | C12H12O
solvent | water | 150 ml | O | H2O
product | 1-(2-bromoethyl)naphthalene | BrCCC1=CC=CC2=CC=CC=C12 | C12H11Br
